US06846827B1
4-[5-(4-Dibenzofuranylcarbonylamino)-2-methylanilino]-2-methoxypyrimidine
A mixture of 2-chloro-4-[5-(4-dibenzofuranylcarbonylamino)-2-methylanilino]pyrimidine (0.1 g), methanol (2 ml) and a 2M solution of hydrogen chloride in diethyl ether (0.5 ml) was stirred and heated to 70° C. for 24 hours. The reaction was evaporated and the residue was purified by column chromatography on silica using a 9:1 mixture of methylene chloride and methanol as eluent. There was thus obtained the title compound as a solid (0.025 g); NMR Spectrum: (DMSOd6) 2.26 (s, 3H), 3.85 (s, 3H), 6.36 (d, 1H), 7.34 (m, 1H), 7.46-7.7 (m, 4H), 7.87 (m, 1H), 7.92 (m, 1H), 8.01 (s, 1H), 8.09 (d, 1H), 8.29 (d, 1H), 8.4 (d, 1H), 9.09 (s, 1H), 10.46 (s, 1H); Mass Spectrum: M+H+ 425.

reactant | 2-chloro-4-[5-(4-dibenzofuranylcarbonylamino)-2-methylanilino]pyrimidine | 0.1 g | ClC1=NC=CC(=N1)NC1=C(C=CC(=C1)NC(=O)C1=CC=CC2=C1OC1=C2C=CC=C1)C | C24H17ClN4O2
reactant | methanol | 2 ml | CO | CH4O
reactant | hydrogen chloride | Cl | ClH
solvent | diethyl ether | 0.5 ml | C(C)OCC | C4H10O
product | 4-[5-(4-Dibenzofuranylcarbonylamino)-2-methylanilino]-2-methoxypyrimidine | 0.025 g | C1=CC=C(C=2OC3=C(C21)C=CC=C3)C(=O)NC=3C=CC(=C(NC2=NC(=NC=C2)OC)C3)C | C25H20N4O3
